US07915250B2
3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid (287 mg, 0.730 mmol), prepared using procedures similar to those described in U.S. Pat. No. 7,019,033, 4-(dimethylamino)pyridine (178 mg, 1.46 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (168 mg, 0.88 mmol) were dissolved in DMF (3 mL). The mixture was stirred at ambient for 10 minutes and then 3-[2-(1,3-dioxolan-2-yl)-1-hydroxyethyl]azetidin-3-ol (0.729 mmol) in DMF (2 mL) was added and the mixture was stirred for 15 h. The mixture was partitioned between ethyl acetate and 5% lithium chloride. The organic portion was washed with 20% citric acid, saturated sodium bicarbonate and brine, then was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography (silica gel, gradient 90% ethyl acetate in hexanes to 100% ethyl acetate) gave 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-[2-(1,3-dioxolan-2-yl)-1-hydroxyethyl]azetidin-3-ol (148 mg, 0.262 mmol, 36% yield): MS (EI) for C21H20F3IN2O5: 565 (MH+).

reactant | 3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid | 0.730 mmol, 287 mg | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)I)F | C13H7F3INO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.88 mmol, 168 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-[2-(1,3-dioxolan-2-yl)-1-hydroxyethyl]azetidin-3-ol | 0.729 mmol | O1C(OCC1)CC(O)C1(CNC1)O | C8H15NO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4-(dimethylamino)pyridine | 1.46 mmol, 178 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-[2-(1,3-dioxolan-2-yl)-1-hydroxyethyl]azetidin-3-ol | 0.262 mmol, 148 mg, 36% yield | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)C(CC1OCCO1)O)NC1=C(C=C(C=C1)I)F | C21H20F3IN2O5
